US08981084B2
Hexamethylenetetramine (1.42 g, 10.1 mmol) was added dropwise over 30 min to a solution of 2-bromo-4-fluoroacetophenone (2.0 g, 9.2 mmol) in dry CHCl3 (40 mL) at 0° C. The reaction mixture was allowed to warm up to room temperature and stirred for 16 h. After completion of the reaction the solid precipitate formed was collected by filtration and washed with CHCl3. The solid obtained was suspended in EtOH (40 mL) and conc. HCl (4 mL) was added. The mixture was heated to 80° C. for 3 h, cooled to room temperature, and the solid formed was filtered off. The clear filtrate was concentrated to afford 2-amino-1-(4-fluorophenyl)ethanone hydrochloride (1.5 g, crude) as yellow solid. MS (ESI) m/z: Calculated for C8H8FNO: 153.06. found: 153.9 (M+H)+

reactant | Hexamethylenetetramine | 10.1 mmol, 1.42 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | 2-bromo-4-fluoroacetophenone | 9.2 mmol, 2.0 g | C1=CC(=CC=C1C(=O)CBr)F | C8H6BrFO
reactant | HCl | 4 mL | Cl | ClH
solvent | CHCl3 | 40 mL | C(Cl)(Cl)Cl | CHCl3
solvent | EtOH | 40 mL | CCO | C2H6O
product | 2-amino-1-(4-fluorophenyl)ethanone hydrochloride | 1.5 g | Cl.NCC(=O)C1=CC=C(C=C1)F | InChI=1S/C8H8FNO.ClH/c9-7-3-1-6(2-4-7)8(11)5-10;/h1-4H,5,10H2;1H
